US07326791B2
(d) 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzonitrile
3.7 g (12.1 mmol) of 4-(3-formyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile is dissolved in 60 mL acetonitrile and, after the addition of 4.3 g (36.4 mmol) of tert-butylcarbamate, 5.8 mL (36.4 mmol) of triethylsilane, and 1.9 mL (24.2 mmol) of trifluoroacetic acid, stirred for 20 hours at ambient temperature. The reaction solution is taken up in diethyl ether, washed with sodium hydrogen carbonate solution, and the organic phase is dried and concentrated by evaporation. Yield: quantitative.

reactant | 4-(3-formyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile | 12.1 mmol, 3.7 g | C(=O)C1=NN(C2=C1CCC2)C2=C(C=C(C#N)C=C2)C(F)(F)F | C15H10F3N3O
reactant | tert-butylcarbamate | 36.4 mmol, 4.3 g | C(C)(C)(C)NC([O-])=O
reactant | triethylsilane | 36.4 mmol, 5.8 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 24.2 mmol, 1.9 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzonitrile | Yield: quantitative | C(C)(C)(C)OC(=O)NCC1=NN(C2=C1CCC2)C2=C(C=C(C#N)C=C2)C(F)(F)F | C20H21F3N4O2
